US04242519
Acetic acid (2 ml), 8 mg of anhydrous copper sulfate and 120 mg of zinc powder were added to 148 mg of α-methylthio-α-[p-(1-oxo-2-isoindolinyl)phenyl]propionic acid, and the mixture was heated under reflux for 5 hours. Conc. hydrochloric acid was added to adjust the pH of the mixture to 1. Water (20 ml) and 20 ml of methylene chloride were added, and the insoluble matter was separated by filtration. The filtrate was extracted four times with 20 ml of methylene chloride. The organic layer was washed with 10 ml of water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 124 mg of α-[p-(1-oxo-2-isoindolinyl) phenyl]propionic acid as colorless crystals in a yield of 99.8%. Recrystallization of the resulting product from ethanol afforded crystals having a melting point of 205° to 208° C.

reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | α-methylthio-α-[p-(1-oxo-2-isoindolinyl)phenyl]propionic acid | 148 mg | CSC(C(=O)O)(C)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O | C18H17NO3S
reactant | hydrochloric acid | Cl | ClH
reactant | Water | 20 ml | O | H2O
catalyst | copper sulfate | 8 mg | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | zinc | 120 mg | [Zn] | Zn
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | α-[p-(1-oxo-2-isoindolinyl) phenyl]propionic acid | 124 mg, yield of 99.8% | O=C1N(CC2=CC=CC=C12)C1=CC=C(C=C1)C(C(=O)O)C | C17H15NO3
